US08278442B2
Preparation 70: 6-(4-Formylbenzo[b]thiophen-7-yloxy)nicotinonitrile
A suspension of 7-hydroxybenzo[b]thiophene-4-carbaldehyde (Preparation 69) (100 mg, 0.62 mmol), 6-chloronicotinonitrile (86 mg, 0.62 mmol) and K2CO3 (258 mg, 1.87 mmol) in sulfolane (3 mL) was heated in a microwave reactor at 130 W/80° C. for 4 h. The mixture was cooled, poured onto ice water and the resulting solid filtered and air-dried to give the title compound: RT=3.40 min; m/z (ES+)=265.2 [M+H]+.

reactant | 7-hydroxybenzo[b]thiophene-4-carbaldehyde | 0.62 mmol, 100 mg | OC1=CC=C(C2=C1SC=C2)C=O | C9H6O2S
reactant | 6-chloronicotinonitrile | 0.62 mmol, 86 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | K2CO3 | 1.87 mmol, 258 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | sulfolane | 3 mL | S1(=O)(=O)CCCC1 | C4H8O2S
product | 6-(4-Formylbenzo[b]thiophen-7-yloxy)nicotinonitrile | C(=O)C1=CC=C(C=2SC=CC21)OC2=NC=C(C#N)C=C2 | C15H8N2O2S
